US07368578B2
A mixture of ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate (1.29 g), 4-[(E)-2-(2-tert-butyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride (1.24 g), potassium carbonate (0.995 g) and N,N-dimethylformamide (30 mL) was stirred at 90° C. for 1.5 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate-tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to aminopropyl silica gel column chromatography and eluted with ethyl acetate-hexane (1:5-1:4-1:3, v/v) to give ethyl {4-[4-({4-[({4-[(E)-2-(2-tert-butyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate (430 mg, yield 20%) as colorless crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 126-129° C.

reactant | ethyl (4-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}phenyl)acetate | 1.29 g | ClCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C23H24ClNO5
reactant | 4-[(E)-2-(2-tert-butyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-ol.hydrochloride | 1.24 g | Cl.C(C)(C)(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)O
reactant | potassium carbonate | 0.995 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | ethyl {4-[4-({4-[({4-[(E)-2-(2-tert-butyl-1,3-oxazol-4-yl)ethenyl]-1-phenyl-1H-pyrazol-3-yl}oxy)methyl]-2-methoxyphenoxy}methyl)-5-methyl-1,3-oxazol-2-yl]phenyl}acetate | 430 mg, yield 20% | C(C)(C)(C)C=1OC=C(N1)/C=C/C=1C(=NN(C1)C1=CC=CC=C1)OCC1=CC(=C(OCC=2N=C(OC2C)C2=CC=C(C=C2)CC(=O)OCC)C=C1)OC | C41H42N4O7
